US06528525B1
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(4′-dimethoxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate (1.88 g), which is the product of Reference example 11, was reacted with aqueous sodium hydroxide solution (1N, 6.80 ml) and the reaction mixture was treated to give 2-butyl-3-[4-[2-(4′-dimethoxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid (1.78 g) as a pale brown solid.

reactant | ethyl 2-butyl-3-[4-[2-(4′-dimethoxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 1.88 g | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(OC)OC | C33H41NO6
reactant | sodium hydroxide | 1N, 6.80 ml | [OH-].[Na+]
product | 2-butyl-3-[4-[2-(4′-dimethoxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid | 1.78 g | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(OC)OC | C31H37NO6
